US07479564B2
STEP 1. 3-[4-(2-Hydroxyethyl)anilinol-4-nitrobenzonitrile
The title compound was prepared according to the procedure described in step 3 of Example 1 from 3-chloro-4-nitrobenzonitrile (Tsuji, K. Chem. Pharm. Bull. 1992, 40, 2399) and 4-aminophenylethyl alcohol.

reactant | 3-chloro-4-nitrobenzonitrile | ClC=1C=C(C#N)C=CC1[N+](=O)[O-] | C7H3ClN2O2
reactant | 4-aminophenylethyl alcohol | NC1=CC=C(C=C1)CCO | C8H11NO
product | 4-(2-Hydroxyethyl)anilinol 4-nitrobenzonitrile | OCCC1=CC=C(NO)C=C1.[N+](=O)([O-])C1=CC=C(C#N)C=C1 | InChI=1S/C8H11NO2.C7H4N2O2/c10-6-5-7-1-3-8(9-11)4-2-7;8-5-6-1-3-7(4-2-6)9(10)11/h1-4,9-11H,5-6H2;1-4H
